US07074817B2
6-(4-Trifluoromethoxyphenyl)-1H-indole
The mixture of 6-bromo-1H-indole (1.22 g, 6.22 mmol), 4-trifluoromethoxyphenyl boronic acid (1.41 g, 6.84 mmol), tetrakis(triphenylphosphine)palladium (0.213 g, 0.184 mmol) and sodium carbonate (2.64 g, 24.9 mmoles) in water (12.5 mL), ethanol (4 mL), and toluene (25 mL) was heated at reflux for 1.5 hours then cooled to room temperature. The mixture was then evaporated to dryness and the residue was partitioned in methylene chloride and water. The organic phase was washed with water, brine, dried over anhydrous magnesium sulfate and evaporated to dryness. The residue was purified by flash chromatography using 10-30% chloroform in hexane as an eluant. The title compound was obtained as a white solid (0.874 g, 51%), mp: 165-166° C. 1HNMR (300 MHz, DMSO-d6): δ 11.25 (s, 1H), 7.8 (d, 2H, J=7.0 Hz), 7.65 (d, 2H, J=7.0 Hz), 7.4-7.5 (m, 3H), 7.3 (d, 1H, J=8.8 Hz), and 6.45 ppm (s, 1H).

reactant | 6-bromo-1H-indole | 6.22 mmol, 1.22 g | BrC1=CC=C2C=CNC2=C1 | C8H6BrN
reactant | 4-trifluoromethoxyphenyl boronic acid | 6.84 mmol, 1.41 g | FC(OC1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O3
reactant | sodium carbonate | 24.9 mmoles, 2.64 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 12.5 mL | O | H2O
solvent | ethanol | 4 mL | C(C)O | C2H6O
catalyst | tetrakis(triphenylphosphine)palladium | 0.184 mmol, 0.213 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-(4-Trifluoromethoxyphenyl)-1H-indole | FC(OC1=CC=C(C=C1)C1=CC=C2C=CNC2=C1)(F)F | C15H10F3NO
